US08202865B2
Step 2: Ethyl 3-amino-4-[isobutyl(propyl)amino]benzoate
A solution of ethyl 4-[isobutyl(propyl)amino]-3-nitrobenzoate (6 g, 0.0194 mol) in EtOAc (100 mL) was added Pd/C (600 mg). The reaction mixture was hydrogenated with hydrogen gas under 5 kg pressure for 3 h. The reaction mixture was filtered off Pd/C and filtrate was concentrated under reduced pressure to afford the title compound as yellow oil (5 g, 92%). 1H NMR (DMSO-d6, 400 MHz) δ 7.29 (s, 1H), 7.16 (d, 1H), 7.01 (d, 1H), 4.93 (s, 2H), 4.23 (q, 2H), 2.80 (t, 2H), 2.71 (t, 3H), 1.65 (m, 1H) 1.40 (m, 2H), 1.28 (t, 3H), 0.82 (m, 9H). LC/MS (Method A): 279.0 (M+H)+. HPLC (Method B) Rt 3.94 min (purity: 97.9%).

reactant | ethyl 4-[isobutyl(propyl)amino]-3-nitrobenzoate | 0.0194 mol, 6 g | C(C(C)C)N(C1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-])CCC | C16H24N2O4
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | Ethyl 3-amino-4-[isobutyl(propyl)amino]benzoate | 5 g, 92% | NC=1C=C(C(=O)OCC)C=CC1N(CCC)CC(C)C | C16H26N2O2
